US07601714B2
To a solution of quinoline-5-carboxylic acid (500 mg, 2.83 mmol) in THF (10 mL) was added slowly LiAlH4 (1.0 M, THF) solution at 0° C. The resulting residue was heated to 70° C. for 3 h and stirred at room temperature for 16 h. The reaction mixture was cooled to 0° C. and quenched with water (1 mL) and 10% NaOH (1.5 mL) solution. The reaction mixture was stirred for 1 h. The solution was filtered through a pad of celite and rinsed with THF. The filtrate was concentrated and the resulting residue was purified by silica gel prep TLC using 95:5 CH2Cl2:MeOH as an eluent to afford 218 mg of quinolin-5-yl-methanol (48%).

reactant | quinoline-5-carboxylic acid | 2.83 mmol, 500 mg | N1=CC=CC=2C(=CC=CC12)C(=O)O | C10H7NO2
reactant | LiAlH4 | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | quinolin-5-yl-methanol | 218 mg, 48% | N1=CC=CC2=C(C=CC=C12)CO | C10H9NO
